US08293754B2
5-Methyl-4-oxo-2-(4-oxopiperidinomethyl)-3,4-dihydrothieno[2,3-d]-pyrimidine-6-carboxylic acid
Using ethyl 2-chloromethyl-5-methyl-4-oxo-3,4-dihydrothieno-[2,3-d]pyrimidine-6-carboxylate and piperidin-4-one, a substitution reaction was carried out similarly to later appearing Production Example 21. Successively the reaction product was hydrolyzed similarly to Example 33, without intervening isolation of the reaction product, to provide the title compound.

reactant | ethyl 2-chloromethyl-5-methyl-4-oxo-3,4-dihydrothieno-[2,3-d]pyrimidine-6-carboxylate | ClCC=1NC(C2=C(N1)SC(=C2C)C(=O)OCC)=O | C11H11ClN2O3S
reactant | piperidin-4-one | N1CCC(CC1)=O | C5H9NO
product | 5-Methyl-4-oxo-2-(4-oxopiperidinomethyl)-3,4-dihydrothieno[2,3-d]-pyrimidine-6-carboxylic acid | CC1=C(SC=2N=C(NC(C21)=O)CN2CCC(CC2)=O)C(=O)O | C14H15N3O4S
